US04663453
5-Chloro-1-(4chloro-2-nitrophenyl)indoline
A stirred solution of 123 g (0.80 mole) of 5-chloroindoline, 134 g (0.70 mole) of 1,4-dichloronitrobenzene and 97 g (0.80 mole) of collidine in 1000 ml of dimethylformamide was heated under nitrogen at 150° C. for 48 hours. The mixture was then cooled, filtered from some insolubles, and the solvent was removed in vacuo with warming. The residue was partitioned between 1000 ml of dichloromethane and 500 ml of water. The water layer was removed and the organic phase was washed twice with 2N-hydrochloric acid, once with 2N-sodium hydroxide, once more with water, dried over Na2SO4 and concentrated to an oil weighing 230 g. This was dissolved in 170 ml of methanol and stirred at room temperature and then at 0° C. The resultant crystals were collected, washed well with cold methanol, and dried. This afforded 86.5 g (40% yield) of product, m.p. 130°-133° C. 4 g of 5-chloro-1-(4-chloro-2-nitrophenyl)indoline were recrystallized from methanol in 85% yield (overall yield: 34%); m.p. 133°-135° C.

reactant | 5-chloroindoline | 0.80 mole, 123 g | ClC=1C=C2CCNC2=CC1 | C8H8ClN
reactant | 1,4-dichloronitrobenzene | 0.70 mole, 134 g | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | collidine | 0.80 mole, 97 g | N1=C(C=C(C=C1C)C)C | C8H11N
solvent | dimethylformamide | 1000 ml | CN(C=O)C | C3H7NO
product | 5-Chloro-1-(4chloro-2-nitrophenyl)indoline | 86.5 g, 40% yield | ClC=1C=C2CCN(C2=CC1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C14H10Cl2N2O2
